data/oMe_Silver.jsonl
{"reaction_id": "NR-147_1-CCCC(C)C_2-C(C)(C)C_3-c1ccccc1_4-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_5-C(F)(F)F","name": "Morita-Baylis-Hillman Reaction","level": "medium","reactants_smiles": ["C(CCCC(C)C)(C(C)(C)C)=CC(=O)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)","O=C([H])C(F)(F)F"],"products_smiles": ["C(=O)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(C(C(F)(F)F)O)=C(CCCC(C)C)(C(C)(C)C)"],"conditions": "N1CCN2CCC1CC2","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(=CC(CCCC(C)C)(C(C)(C)C)[N+]12CCN(CC1)CC2)[O-]","rationale": "The tertiary amine nucleophile attacks the β-position of the activated alkene due to strong electron withdrawal by the adjacent carbonyl, forming a stabilized zwitterionic enolate."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(CCCC(C)C)(C(C(C(C)(C)C)(c1ccccc1)[N+]12CCN(CC1)CC2)C(C(F)(F)F)[O-])=O","rationale": "The enolate carbon, being nucleophilic and resonance-stabilized, attacks the electrophilic carbonyl carbon of the aldehyde, favored by the aldehyde’s high reactivity and minimal steric hindrance."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CCCC(C)C)(=C(/C(C(C)(C)C)(c1ccccc1)[N+]12CCN(CC1)CC2)C(C(F)(F)F)O)[O-]","rationale": "Proton transfer occurs to neutralize the alkoxide and generate a hydroxyl group, driven by the stability of the resulting alcohol and facilitated by the basic amine environment."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(C(C(F)(F)F)O)=C(CCCC(C)C)(C(C)(C)C)","rationale": "Elimination of the amine regenerates the catalyst and forms the conjugated alkene, favored by restoration of the carbonyl conjugation and relief of the zwitterionic intermediate’s charge separation."}],"description": "In the Morita–Baylis–Hillman reaction, the tertiary amine catalyst activates the electron-deficient alkene via nucleophilic addition, forming a zwitterionic enolate. This enolate then attacks the aldehyde, followed by proton transfer and elimination of the amine to yield the allylic alcohol product under mild conditions."}
{"reaction_id": "NR-201_1-C(F)(F)F_2-c2ccccc2","level": "medium","name": "Nazarov Cyclization Reaction","reactants_smiles": ["C(C(C(F)(F)F))=CC(=O)C=C(C(c2ccccc2))","CS(=O)(=O)O"],"products_smiles": ["C(c2ccccc2)C1=CC(=O)CC1(C(F)(F)F)"],"conditions": "H+ OSO2Me","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C(F)(F)F))=CC(=[OH+])C=CC(c2ccccc2)","step_weight": 0,"rationale": "Protonation of the carbonyl oxygen increases electrophilicity and stabilizes the developing positive charge via resonance, facilitating oxyallyl cation formation under strong acid."},{"step": 2,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "C1(=CC(C([CH+]1)C(C(F)(F)F))C(c2ccccc2))O","step_weight": 0,"rationale": "The oxyallyl cation undergoes a conrotatory 4π-electrocyclization, favored by orbital symmetry and leading to a cyclopentenyl cation stabilized by adjacent substituents."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C1(=CC(C(=C1)C(c2ccccc2))C(C(F)(F)F))O","step_weight": 0,"rationale": "Deprotonation relieves positive charge on the cyclopentenyl cation, driven by formation of a more conjugated alkene system."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c2ccccc2)C1=CC(=O)CC1(C(C(F)(F)F))","step_weight": 0,"rationale": "Acid-catalyzed tautomerization converts the enol to the more stable conjugated ketone, favored by carbonyl bond strength and extended π-conjugation."}],"description": "Under strong acid conditions, the divinyl ketone is protonated to activate the carbonyl toward cation formation. This enables oxyallyl cation generation, which undergoes a Nazarov 4π-electrocyclization to form a cyclopentenyl cation. Subsequent deprotonation and tautomerization yield the thermodynamically stable cyclopentenone product."}
